US05175284
5-Isobutyl-4-oxo-3,4,5,6-tetrahydro-2H-2,6-methanothieno[3,2-g]-1,5-thiazocine-8-sulfonamide
5-Isobutyl-4-oxo-3,4,5,6-tetrahydro-2H-2,6-methanothieno[3,2-g]-1,5-thiazocine, prepared as described in Example 2, steps A and B but substituting isobutylamine for 4-methoxybenzylamine (4 g, 15 mmol), was added to a mixture of phosphorous pentachloride (6.23 g, 30 mmol) and chlorosulfonic acid (7 ml) at 0° C. After 0.5 hour at this temperature and 0.5 hour at 50° C., the reaction mixture was poured over crushed ice. The resulting sulfonyl chloride was separated and treated with concentrated aqueous ammonia (100 ml) in ethyl acetate (100 ml) at 0° C. The ethyl acetate layer was separated and evaporated under reduced pressure. The resulting solid was chromatographed over silica gel (ethyl acetate: hexane; 1:1) to give 2.0 g of the title compound.

reactant | 5-Isobutyl-4-oxo-3,4,5,6-tetrahydro-2H-2,6-methanothieno[3,2-g]-1,5-thiazocine | C(C(C)C)N1C2C=CSC3=C(C1=O)CC(S3)C2 | C13H17NOS2
reactant | 4-methoxybenzylamine | 15 mmol, 4 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | phosphorous pentachloride | 30 mmol, 6.23 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | chlorosulfonic acid | 7 ml | ClS(=O)(=O)O | ClHO3S
product | 5-Isobutyl-4-oxo-3,4,5,6-tetrahydro-2H-2,6-methanothieno[3,2-g]-1,5-thiazocine-8-sulfonamide | 2.0 g | C(C(C)C)N1C2C=C(SC3=C(C1=O)CC(S3)C2)S(=O)(=O)N | C13H18N2O3S3
